US05753670
Then, ethyl 3-(4-oxopiperidino)propionate (1.29 g, 6.47 mol) and benzylamine (0.85 ml, 7.78 mmol) were dissolved in ethanol (40 ml). A solution of sodium cyanoborohydride (256 mg, 4.22 mmol) dissolved in ethanol (20 ml) was added at room temperature and acetic acid (1 ml) was further added to adjust its pH to 6-7. The mixture was stirred at room temperature for 18 hours and added with concentrated hydrochloric acid (3 ml) to adjust the pH to 1-2. The resulting precipitate was collected by filtration and a saturated aqueous sodium hydrogencarbonate solution (150 ml) was added to adjust the mixture to pH 8-9. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous magnesium sulfate. After filtration, low boiling matters were distilled away from the filtrate under reduced pressure to give 1.39 g of ethyl 3-(4-benzylaminopiperidino)propionate as a colorless oil (74%). This oil (1.11 g, 3.82 mmol) was dissolved in ethanol (120 ml) and 10% palladium-carbon (320 mg) was added. The mixture was refluxed under heating for 5 hours under a hydrogen atmosphere. The reaction mixture was filtrated and low boiling matters were distilled away from the filtrate under reduced pressure to give 617 mg of ethyl 3-(4-aminopiperidino)propionate as a colorless oil (81%).

reactant | ethyl 3-(4-oxopiperidino)propionate | 6.47 mol, 1.29 g | O=C1CCN(CC1)CCC(=O)OCC | C10H17NO3
reactant | benzylamine | 7.78 mmol, 0.85 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium cyanoborohydride | 4.22 mmol, 256 mg | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | ethyl 3-(4-benzylaminopiperidino)propionate | 1.39 g, 74% | C(C1=CC=CC=C1)NC1CCN(CC1)CCC(=O)OCC | C17H26N2O2
